US09278950B2
Step 1. Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate
A pressure tube was charged with benzyl {7-bromo-2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]quinolin-3-yl}carbamate (15 mg, 0.020 mmol), K3PO4 (8.4 mg, 0.034 mmol), 1,4-dioxane (0.3 mL), water (0.04 mL) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine (6.6 mg, 0.03 mmol). The reaction mixture was purged with nitrogen for 5 min., then dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine-(2′-aminobiphenyl-2-yl)(chloro)palladium (1:1) (1.6 mg, 0.002 mmol) was added. The reaction mixture was sealed and heated at 90° C. for 30 min., then allowed to cool to room temperature. The crude mixture was filtered and purified by preparative LCMS (pH=10 method; XBridge™ preparative C18 5 μm OBD™ column, 30×10 mm, 60 mL/min., eluting with a gradient of MeCN and water with 0.1% NH4OH) to give the title compound as a light yellow powder (4.7 mg, 33%). LCMS calc. for C42H49N10O5 (M+H)+: m/z=773.4. Found: 773.4.

reactant | benzyl {7-bromo-2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]quinolin-3-yl}carbamate | 0.020 mmol, 15 mg | BrC1=CC=C2C=C(C(=NC2=C1)C(=O)NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)NC(=O)OC(C)(C)C)NC(OCC1=CC=CC=C1)=O | C36H38BrN9O5
reactant | K3PO4 | 0.034 mmol, 8.4 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 0.3 mL | O1CCOCC1 | C4H8O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,6-tetrahydropyridine | 0.03 mmol, 6.6 mg | CN1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C12H22BNO2
catalyst | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine (2′-aminobiphenyl-2-yl)(chloro)palladium | 0.002 mmol, 1.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1.NC1=C(C=CC=C1)C1=C(C=CC=C1)[Pd]Cl
solvent | water | 0.04 mL | O | H2O
product | Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)quinolin-3-yl]carbamate | 4.7 mg, 33% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)C=1CCN(CC1)C | C42H48N10O5
